US06093784
70 g (0.19 mol) of the above synthesized 1,1-bis(4-methoxyphenyl)-1-(4-nitro-phenyl)ethane, 200 ml of tetrahydrofuran and 3.5 g of palladium carbon were placed in an Erlenmeyer flask, and the 1,1-bis(4-methoxyphenyl)-1-(4-nitro-phenyl)ethane was reduced by 13.65 l of hydrogen. After this reduction reaction, the tetrahydrofuran was distilled away from the reaction mixture under reduced pressure, whereby 1,1-bis(4-methoxyphenyl)-1-(4-amino-phenyl)ethane was obtained in the form of a white solid in a yield of 64.2 g.

reactant | 1,1-bis(4-methoxyphenyl)-1-(4-nitro-phenyl)ethane | COC1=CC=C(C=C1)C(C)(C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)OC | C22H21NO4
reactant | hydrogen | 13.65 l | [H][H] | H2
catalyst | palladium carbon | 3.5 g | [C].[Pd]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1,1-bis(4-methoxyphenyl)-1-(4-amino-phenyl)ethane | COC1=CC=C(C=C1)C(C)(C1=CC=C(C=C1)N)C1=CC=C(C=C1)OC | C22H23NO2
